US09388189B2
(S)-2-(1-((6-Amino-5-((3-hydroxyphenyl)thio)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.21 mmol) was treated with 3-mercaptophenol (39 mg, 0.31 mmol), potassium carbonate (128 mg, 0.93 mmol) and copper(I) iodide (59 mg, 0.31 mmol) in a microwave vessel with dichloromethane as a solvent according to the method described in Preparation 44. The residue was purified using SP1® Purification System (0% to 100%, hexane-ethyl acetate) to give 30 mg (30% yield) of the title compound.

reactant | (S)-2-(1-((6-Amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.21 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 3-mercaptophenol | 0.31 mmol, 39 mg | SC=1C=C(C=CC1)O | C6H6OS
reactant | potassium carbonate | 0.93 mmol, 128 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper(I) iodide | 0.31 mmol, 59 mg | [Cu]I
product | (S)-2-(1-((6-Amino-5-((3-hydroxyphenyl)thio)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 30 mg, 30% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)SC2=CC(=CC=C2)O | C25H23N7O2S
